US07960369B2
4-hydroxybenzenepropanamide
25% Aqueous ammonia (30 mL) was added to methyl 4-hydroxybenzenepropanoate (1.5 g, 8.3 mmol), and the mixture was stirred at room temperature for 15 hrs. Dil. hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (0.43 g, yield 31%).

reactant | methyl 4-hydroxybenzenepropanoate | 8.3 mmol, 1.5 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | 30 mL | N | H3N
product | 4-hydroxybenzenepropanamide | 0.43 g, yield 31% | OC1=CC=C(C=C1)CCC(=O)N | C9H11NO2
